### PR TITLE
completed ElligatorEncode

### LINKED ISSUE #468: Verify curve25519_dalek::montgomery::elligator_encode
curve25519_dalek::montgomery::elligator_encode

### PR DESCRIPTION
**Pull request by truonghoangle**
Verified : curve25519_dalek::montgomery::elligator_encode 

Closed #468

### CODE REVIEW

File: Curve25519Dalek/Specs/Montgomery/MontgomeryPoint/ElligatorEncode.lean [hunk 1]
```diff
@@ -155,6 +195,521 @@ theorem elligator_encode_spec
...
+        simp only [this, add_zero] at ha
+        have := ha.trans hd
+        have := cases_one h_one
+        rw[← this]
+        rw[lift_mod_eq_iff] at ha
+        rw[ha]
+        rw[lift_mod_eq_iff] at change_heps
+        simp only [MONTGOMERY_A_spec, Nat.cast_mul, Nat.cast_add, Nat.cast_pow, Nat.cast_ofNat, Nat.cast_one] at change_heps
+        have : 486662=Curve25519.A  := by unfold Curve25519.A; decide
+        rw[this] at change_heps
```
Comment (a-dangelo) [inline Curve25519Dalek/Specs/Montgomery/MontgomeryPoint/ElligatorEncode.lean]: isn't 'dsimp only [Curve25519.A] at change_heps' doing the same as L505-506? if it works it would be preferred, it's cleaner

File: Curve25519Dalek/Specs/Montgomery/MontgomeryPoint/ElligatorEncode.lean [hunk 2]
```diff
@@ -155,6 +195,521 @@ theorem elligator_encode_spec
...
+                  simp only [this, mul_one]
+                  unfold   IsSquare  at sq
+                  obtain ⟨ r, hr⟩ := sq
+                  use r.val
+                  rw[← Nat.ModEq, lift_mod_eq_iff]
+                  rw[hr]
+                  simp only [Nat.cast_pow, ZMod.natCast_val, ZMod.cast_id', id_eq]
+                  ring_nf
+            exact(hp_case_4 this).left
+    constructor
```
Comment (a-dangelo) [inline Curve25519Dalek/Specs/Montgomery/MontgomeryPoint/ElligatorEncode.lean]: this is a bit nested, is there a way to flatten it a bit? maybe using 'refine \langle ?_, ....\rangle' ?
it should also help avoiding deterministic timeouts (and maybe reduce heartbeats usage). In general (when I remember myself!), I prefer 'refine' over 'constructor', not sure it's making a big difference, but I was told so once by a mathlib maintainer I think

File: Curve25519Dalek/FunsExternal.lean [hunk 3]
```diff
@@ -645,382 +670,6 @@ private def montgomery.ProjectivePoint.Insts.SubtleConditionallySelectable.condi
       a.W b.W choice
   ok { U := fe, W := fe1 }
 
-/-- [curve25519_dalek::backend::serial::curve_models::{subtle::ConditionallySelectable for curve25519_dalek::backend::serial::curve_models::ProjectiveNielsPoint}::conditional_select]:
```
Comment (a-dangelo) [inline Curve25519Dalek/FunsExternal.lean]: this is a huge deletion!! can you explain why you want to remove this? and where was this used? maybe it's stale code, I guess

File: Curve25519Dalek/Specs/Montgomery/MontgomeryPoint/ElligatorEncode.lean (hunk 1 above)
Comment (a-dangelo) [reply Curve25519Dalek/Specs/Montgomery/MontgomeryPoint/ElligatorEncode.lean]: ok, then leave it as it is, no worries
